US08278442B2
Preparation 69: 7-Hydroxybenzo[b]thiophene-4-carbaldehyde
7-Methoxybenzo[b]thiophene-4-carbaldehyde (Preparation 68) (844 mg, 4.39 mmol) was added to a suspension of potassium tert-butoxide (1.5 g, 14.0 mmol) and diethylaminoethanethiol hydrochloride (1.12 g, 6.58 mmol) in DMF (22 mL). The mixture was refluxed for 1 h. After cooling the mixture was acidified to pH 1 with 1N HCl and the aqueous phase extracted with EtOAc. The organic phase was washed with water, brine and dried (MgSO4). Solvent was removed in vacuo to give the title compound: RT=2.59 min; m/z (ES+)=178.2 [M+H]+.

reactant | 7-Methoxybenzo[b]thiophene-4-carbaldehyde | 4.39 mmol, 844 mg | COC1=CC=C(C2=C1SC=C2)C=O | C10H8O2S
reactant | potassium tert-butoxide | 14.0 mmol, 1.5 g | CC(C)([O-])C.[K+]
reactant | diethylaminoethanethiol hydrochloride | 6.58 mmol, 1.12 g | Cl.C(C)N(CC)C(C)S
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 22 mL | CN(C)C=O | C3H7NO
product | 7-Hydroxybenzo[b]thiophene-4-carbaldehyde | OC1=CC=C(C2=C1SC=C2)C=O | C9H6O2S
